US07253286B2
N-[4-(2-Cyclobutanecarbonylaminopyridin-4-yl)oxyphenyl]-N′-(4-fluorophenyl)urea
After adding 70 mg of cyclobutanecarbonyl chloride to a solution of 100 mg of N-[4-(2-aminopyridin-4-yl)oxyphenyl]-N′-(4-fluorophenyl)urea, 0.12 ml of triethylamine and 10 ml of tetrahydrofuran stirred at room temperature, the mixture was further stirred for 15 minutes. NH type silica gel was added to the reaction solution, the solvent was distilled off under reduced pressure and the reaction product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with NH type silica gel, and column purification was performed (chloroform:methanol=40:1). The obtained residue was solidified from ethyl acetate-methanol-hexane to obtain 64 mg of the target substance as a white solid.

reactant | cyclobutanecarbonyl chloride | 70 mg | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | N-[4-(2-aminopyridin-4-yl)oxyphenyl]-N′-(4-fluorophenyl)urea | 100 mg | NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C18H15FN4O2
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[4-(2-Cyclobutanecarbonylaminopyridin-4-yl)oxyphenyl]-N′-(4-fluorophenyl)urea | C1(CCC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C23H21FN4O3
